US08106221B2
Step 2. N,5-dimethoxy-N-methylpentanamide
To sodium hydride (60% in mineral oil, 2.6 g, 66.3 mmol) in dry DMF (40 mL) was added a solution of 5-hydroxy-N-methoxy-N-methylpentanamide (8.9 g, 55.2 mmol) in DMF (50 mL) slowly at 0° C. After 30 min, methyl iodide (4.1 mL, 66.3 mmol) was added and the reaction was stirred over night. Starting material remained and more sodium hydride ((60% in mineral oil, 1 g, 25 mmol) and methyl iodide (1.7 mL, 27.2 mmol) was added followed by additional stirring for 6 h. The solvent was evaporated under vacuum. The residue was diluted with dichloromethane and treated with brine. The aqueous layer was extracted with dichloromethane. The combined organic phases were dried over sodium sulfate, filtered and concentrated. The residue was purified by column chromatography on silica gel (120 g column, 80% ethyl acetate in hexanes to 100% ethyl acetate) to give product (5.3 g, 55%).

reactant | sodium hydride | 66.3 mmol, 2.6 g | [H-].[Na+]
reactant | 5-hydroxy-N-methoxy-N-methylpentanamide | 55.2 mmol, 8.9 g | OCCCCC(=O)N(C)OC | C7H15NO3
reactant | methyl iodide | 66.3 mmol, 4.1 mL | CI | CH3I
reactant | methyl iodide | 27.2 mmol, 1.7 mL | CI | CH3I
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | N,5-dimethoxy-N-methylpentanamide | 5.3 g, 55% | CON(C(CCCCOC)=O)C | C8H17NO3
